US06660756B2
2-(2,3-Dihydro-1-benzofuran-3-yl)-ethylamine
To a stirred suspension of sodium hydride (247 mg, 6.16 mmol) in dry THF (6 ml) at 0° C. under nitrogen was added a solution of diethylcyanomethyl phosphonate (0.98 ml, 6.16 mmol) in 2 ml THF and the whole stirred at 0° C. for 1 h. 5-Acetyl-2,3-dihydro[b]benzofuran (Aldrich) (1 g, 6.16 mmol) in THF (2 ml) was added dropwise and the whole stirred at room temperature for 16 h. Water (20 ml) and EtOAc (20 ml) were added, the organic layer separated, and the aqueous layer extracted with EtOAc (2×20 ml). The combined organics were dried over MgSO4, filtered and evaporated to afford a pale brown oil which solidified on standing. This solid was purified by column chromatography using 20-30% EtOAc in pentane as eluant to give the title product (789 mg, 69%); 1HNMR (400 MHz, CDCl3) δ: 2.4 (s, 3H), 3.2 (t, 2H), 4.6 (t, 2H), 5.5 (s, 1H), 6.7 (d, 1H), 7.2 (d, 1H), 7.3 (s, 1H); LRMS: M+NH4 203 (ES+).

reactant | sodium hydride | 6.16 mmol, 247 mg | [H-].[Na+]
reactant | diethylcyanomethyl phosphonate | 6.16 mmol, 0.98 ml | P(OC(C#N)(CC)CC)([O-])=O
reactant | Water | 20 ml | O | H2O
reactant | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
reactant | THF | 6 ml | C1CCOC1 | C4H8O
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-(2,3-Dihydro-1-benzofuran-3-yl)-ethylamine | 789 mg, 69% | O1CC(C2=C1C=CC=C2)CCN | C10H13NO
